US06921753B2
(2S,3S,4R,5R)-4-(Benzoyloxy)-5-{2-cyano-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate
A mixture of 6-[(2,2-diphenylethyl)amino]-9H-purine-2-carbonitrile (Preparation 24) (5.00 g, 14.7 mmol), (2S,3S,4R,5R)-5-(acetyloxy)-4-(benzoyloxy)-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate and (2S,3S,4R,5S)-5-(acetyloxy)-4-(benzoyloxy)-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate (Preparation 18) (6.50 g, 14.7 mmol) and iodine (0.38 g, 15.0 mmol) were heated together at 150° C. under reduced pressure (7 kPa, 1 psi) for 2.5 hours. The reaction was then allowed to stand at room temperature for 18 hours. The residue was purified by column chromatography on silica gel eluting with a gradient system of ethyl acetate:pentane (40:60 by volume) increasing in polarity to neat ethyl acetate to afford the title compound as a foam (4.95 g).

reactant | 6-[(2,2-diphenylethyl)amino]-9H-purine-2-carbonitrile | 14.7 mmol, 5.00 g | C1(=CC=CC=C1)C(CNC1=C2N=CNC2=NC(=N1)C#N)C1=CC=CC=C1 | C20H16N6
reactant | (2S,3S,4R,5R)-5-(acetyloxy)-4-(benzoyloxy)-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C)=O)C(=O)NCC | C23H23NO8
reactant | (2S,3S,4R,5S)-5-(acetyloxy)-4-(benzoyloxy)-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate | 14.7 mmol, 6.50 g | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C1=CC=CC=C1)=O)OC(C)=O)C(=O)NCC | C23H23NO8
reactant | iodine | 15.0 mmol, 0.38 g | II | I2
product | (2S,3S,4R,5R)-4-(Benzoyloxy)-5-{2-cyano-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-2-[(ethylamino)carbonyl]tetrahydro-3-furanyl benzoate | 4.95 g | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C#N)C(=O)NCC | C41H35N7O6
